US08076517B2
(R)—N′-(1-Cyclohexyl-but-3-enyl)-N′-(3,5-dimethyl-benzoyl)-hydrazine carboxylic acid benzyl ester (2.91 g, 6.7 mmoles) was suspended in ca. 50 mL glacial acetic acid. 102 mg 10% palladium on charcoal was added as a slurry in several mL of acetic acid. The mixture was diluted with acetic acid to 75 mL, and shaken on a Parr hydrogenator for 90 minutes at 20-30 psi. The suspension was allowed to stand for two days to allow the carbon to settle out. The supernatant was filtered through a 0.45 micron syringe filter into a recrystallizing dish and solvent was evaporated to leave 2.06 g (102% mass balance) of (R)-3,5-dimethyl-benzoic acid N-(1-cyclohexyl-butyl)-hydrazide as a reddish brown viscous oil. Rf=0.24 (2:1 hexanes:ethyl acetate); 1H NMR (400 MHz, CDCl3) δ 7.05 (1H, s), 7.0 (2H, s), 4.55+3.35 (1H, 2 t), 2.4 (6H, s), 0.8-1.9 (15H, m), 0.9 (3H, t); HRMS (ESI) m/z calcd for C19H31N2O [M+H]+ 303.2436, found 303.2441, calcd for C19H30N2NaO [M+Na]+ 325.2256, found 325.2262.

reactant | (R)—N′-(1-Cyclohexyl-but-3-enyl)-N′-(3,5-dimethyl-benzoyl)-hydrazine carboxylic acid benzyl ester | 6.7 mmoles, 2.91 g | C(C1=CC=CC=C1)OC(=O)NN(C(C1=CC(=CC(=C1)C)C)=O)[C@H](CC=C)C1CCCCC1 | C27H34N2O3
solvent | acetic acid | ca. 50 mL | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 102 mg | [Pd] | Pd
product | (R)-3,5-dimethyl-benzoic acid N-(1-cyclohexyl-butyl)-hydrazide | 2.06 g, 102% | C1(CCCCC1)[C@@H](CCC)N(N)C(C1=CC(=CC(=C1)C)C)=O | C19H30N2O
